US05565447
To a solution of previously dried 1-[[2-carboxy-3-(2-dimethylaminoethyl)-5-indolyl]methanesulphonyl]pyrrolidine (1.6 g; 0.0442 moles) in anhydrous quinoline (75 ml) and under atmosphere of nitrogen, cuprous oxide (160 mg; 0.0011 moles) was added. The reaction mixture was heated to 190° C. for 15 minutes, stirred to room temperature, poured into a mixture of 1N hydrochloric acid (150 ml) and ethyl acetate (50 ml), shaken and decanted. The aqueous solution was washed several times with ethyl acetate, then solid sodium bicarbonate was added until pH=7.8, and washed with n-hexane to eliminate the quinoline. The aqueous solution was made alkaline with solid potassium carbonate and extracted with ethyl acetate. The organic solution was dried (Na2SO4), the solvent removed under reduced pressure when a dark oil was obtained (1.3 g; yield 92%). This product was purified by column chromatography with silica gel and methylene chloride:ethanol:ammonium hydroxide (60:8:1) as eluent and a white foam (0.8 g) of 1-[[3-(2-dimethylaminoethyl)-5-indolyl]methanesulphonyl]pyrrolidine was obtained.

reactant | 1-[[2-carboxy-3-(2-dimethylaminoethyl)-5-indolyl]methanesulphonyl]pyrrolidine | 0.0442 moles, 1.6 g | C(=O)(O)C=1NC2=CC=C(C=C2C1CCN(C)C)CS(=O)(=O)N1CCCC1 | C18H25N3O4S
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | quinoline | 75 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 1-[[3-(2-dimethylaminoethyl)-5-indolyl]methanesulphonyl]pyrrolidine | 0.8 g, yield 92% | CN(CCC1=CNC2=CC=C(C=C12)CS(=O)(=O)N1CCCC1)C | C17H25N3O2S
